US07538931B2
Hrb=2,2′-Ethane-1,2-diylbis(1-benzyl-1H-benzimidazole)
To a flask were added 0.5 g 2,2′-ethane-1,2-diylbis(1H-benzimidazole), 0.7 g potassium carbonate, 30 ml N,N-dimethylformamide and the mixture was stirred under nitrogen. 0.6 g Benzyl chloride were added and the mixture was heated to 60 C for 16 hours. Another 0.5 g benzyl chloride were added and the reaction was heated to 70 C for another 20 hours and then cooled to 22 C. The reaction was quenched with 30 ml water and the product was filtered and washed with water. The product was re-slurried in 80 ml hot acetonitrile, cooled, filtered and dried resulting in 0.35 g of a white solid.

reactant | 2,2′-ethane-1,2-diylbis(1H-benzimidazole) | 0.5 g | C(CC1=NC2=C(N1)C=CC=C2)C2=NC1=C(N2)C=CC=C1 | C16H14N4
reactant | potassium carbonate | 0.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | Benzyl chloride | 0.6 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | benzyl chloride | 0.5 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2,2′-Ethane-1,2-diylbis(1-benzyl-1H-benzimidazole) | 0.35 g | C(CC1=NC2=C(N1CC1=CC=CC=C1)C=CC=C2)C2=NC1=C(N2CC2=CC=CC=C2)C=CC=C1 | C30H26N4
